US08084448B2
C. 1-Benzyloxymethyl-5-vinyl-1H-pyrazole
A solution of methyltriphenylphosphoniumbromide (7.85 g, 22.0 mmol) in THF (40 mL) is cooled to 0° C. then MeLi (12.2 mL, 1.6 M in ether) is added dropwise. The mixture is stirred for 1 h then a solution of 2-benzyloxymethyl-2H-pyrazole-3-carbaldehyde (3.4 g, 15.7 mmol) in THF (15 mL) is added dropwise. The reaction is stirred for an hour at 0° C., then warmed to RT over 1 h. The mixture is partitioned between aqueous NH4Cl and EtOAc and the organic layer is concentrated. Chromatography (10-15% EtOAc/hexane) affords the title compound as a yellow oil: (M+1)+=215.

reactant | MeLi | 1.6 M, 12.2 mL | [Li]C
reactant | 2-benzyloxymethyl-2H-pyrazole-3-carbaldehyde | 15.7 mmol, 3.4 g | C(C1=CC=CC=C1)OCN1N=CC=C1C=O | C12H12N2O2
catalyst | methyltriphenylphosphoniumbromide | 22.0 mmol, 7.85 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 1-Benzyloxymethyl-5-vinyl-1H-pyrazole | C(C1=CC=CC=C1)OCN1N=CC=C1C=C | C13H14N2O
